US07626056B2
2,4-Dichloro-N-{[1-(cyclopropylmethyl)-4-oxocyclohexyl]methyl}benzamide
2,4-Dichloro-N-[(8-cyclopropylmethyl-1,4-dioxaspiro[4.5]dec-8-yl)methyl]benzamide (11 g; 27.6158 mmol) was dissolved in THF (80 ml) and HCl (2M; 80 ml) and the solution stirred at ambient temperature for 18 hours. The solution was adjusted to pH 9 with 10N NaOH solution and extracted with DCM (2×75 ml). The combined organics were dried (MgSO4) filtered and evaporated to give an oil which was crystallised from EtOAc isohexane as a white solid (8.0 g) 1H NMR δ (ppm)(CDCl3): 7.67 (1H, d, J=8.3 Hz), 7.44 (1H, d, J=2.0 Hz), 7.34 (1H, dd, J=2.0, 8.3 Hz), 6.37 (1H, s), 3.72 (2H, d, J=6.4 Hz), 2.57-2.49 (2H, m), 2.39-2.31 (2H, m), 1.92-1.80 (4H, m), 1.43 (2H, s), 0.77-0.69 (1H, m), 0.58-0.54 (2H, m), 0.11 (2H, q, J=5.0Hz). MS (m/e)=354.

reactant | 2,4-Dichloro-N-[(8-cyclopropylmethyl-1,4-dioxaspiro[4.5]dec-8-yl)methyl]benzamide | 27.6158 mmol, 11 g | ClC1=C(C(=O)NCC2(CCC3(OCCO3)CC2)CC2CC2)C=CC(=C1)Cl | C20H25Cl2NO3
reactant | HCl | 2M, 80 ml | Cl | ClH
reactant | NaOH | 10N | [OH-].[Na+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 2,4-Dichloro-N-{[1-(cyclopropylmethyl)-4-oxocyclohexyl]methyl}benzamide | ClC1=C(C(=O)NCC2(CCC(CC2)=O)CC2CC2)C=CC(=C1)Cl | C18H21Cl2NO2
